US05270317
B) Ethyl 1-aminomethylcyclopentanecarboxylate
20 g of ethyl 1-cyanocyclopentanecarboxylate are placed in 200 ml of a 10% solution of ammonia in ethanol and hydrogenated at 60° C. under a pressure of 100 bar in the presence of rhodium-on-alumina for 72 hours. After filtration on cellite® and evaporation, the residue is chromatographed on silica using a DCM/methanol/20% aqueous ammonia mixture (98/2/0.5; v/v/v) as the eluent.

reactant | ethyl 1-cyanocyclopentanecarboxylate | 20 g | C(#N)C1(CCCC1)C(=O)OCC | C9H13NO2
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
catalyst | rhodium-on-alumina | [Rh] | Rh
product | Ethyl 1-aminomethylcyclopentanecarboxylate | NCC1(CCCC1)C(=O)OCC | C9H17NO2
